US05854274
2-((2,6-Dinitrophenyl)amino)-5-fluorobenzoic acid
3.0 g (19.3 mmol) of 2-amino-5-fluorobenzoic acid and 5.88 g (29.0 mmol) of 1-chloro-2,6-dinitrobenzene were dissolved in a mixture of 30 ml of dimethylformamide with 30 ml of dimethyl sulfoxide. After adding 6.74 ml of triethylamine, the reaction mixture was stirred in a nitrogen atmosphere at room temperature for 14 days and concentrated followed by the addition of 1N hydrochloric acid thereto. Then it was extracted with ethyl acetate, washed with 1N hydrochloric acid and dried over magnesium sulfate. After concentrating, chloroform was added thereto. The crystals thus precipitated were collected. Thus 2.65 g of the title compound was obtained.

reactant | 2-amino-5-fluorobenzoic acid | 19.3 mmol, 3.0 g | NC1=C(C(=O)O)C=C(C=C1)F | C7H6FNO2
reactant | 1-chloro-2,6-dinitrobenzene | 29.0 mmol, 5.88 g | ClC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | triethylamine | 6.74 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 2-((2,6-Dinitrophenyl)amino)-5-fluorobenzoic acid | 2.65 g | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])NC1=C(C(=O)O)C=C(C=C1)F | C13H8FN3O6
